US04877881
Sodium metal (1.8 g, 0.078 mole) is dissolved in absolute ethanol (50 ml) under an inert atmosphere. An ethanolic solution of 1-(3'-methoxy-4'-hydroxyphenyl)-1-butene-3-one (5.00 g, 0.026 mole) is then added slowly to the sodium ethoxide solution. The mixture is stirred for 10 minutes, after which diethyl oxalate (3.80 g, 0.026 mole) is added. The reaction is stirred at room temperature for 5 hours and then acidified with concentrated HCl. The mixture is then stirred at 0° C. for 1 hour. The precipitate is collected and dried to afford 4.8 g of ethyl 6-(3'-methoxy-4'-hydroxyphenyl)-2,4-dioxo-5-hexenoate; 63% yield; mp=97°-98° C.

reactant | Sodium | 0.078 mole, 1.8 g | [Na] | Na
reactant | 1-(3'-methoxy-4'-hydroxyphenyl)-1-butene-3-one | 0.026 mole, 5.00 g | COC=1C=C(C=CC1O)C=CC(C)=O | C11H12O3
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | diethyl oxalate | 0.026 mole, 3.80 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | HCl | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl 6-(3'-methoxy-4'-hydroxyphenyl)-2,4-dioxo-5-hexenoate | 4.8 g, 63% yield | COC=1C=C(C=CC1O)C=CC(CC(C(=O)OCC)=O)=O | C15H16O6
